US04696964
O-Methyl-N,N-dibenzylhydroxylamine
A mixture of 5.11 g of methoxylaminehydrochloride, 20.87 g of benzylbromide and 25.8 g of sodium carbonate in 50 ml of dimethylformamide is heated at 85° C. for 4 hrs. The reaction mixture is treated with ether and water. The organic phase is separated and washed with water, dried (MgSO4) and evaporated under reduced pressure. Flash column chromatography of the residue affords the title compound as a clear colorless oil.

reactant | methoxylaminehydrochloride | 5.11 g | Cl.O(C)N
reactant | benzylbromide | 20.87 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium carbonate | 25.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ether | CCOCC | C4H10O
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | O-Methyl-N,N-dibenzylhydroxylamine | CON(CC1=CC=CC=C1)CC1=CC=CC=C1 | C15H17NO
